US04889857
By the use of 2-chloromethyl-4-benzylmorpholine and N-formylpiperazine, the reaction is similarly carried out as Reference example 2 to give 2-(4-formyl-1-piperazinylmethyl) morpholine.dihydrochloride as white crystals, melting at 243°-245° C. with decomposition.

reactant | 2-chloromethyl-4-benzylmorpholine | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | N-formylpiperazine | C(=O)N1CCNCC1 | C5H10N2O
product | 2-(4-formyl-1-piperazinylmethyl) morpholine.dihydrochloride | Cl.Cl.C(=O)N1CCN(CC1)CC1CNCCO1 | InChI=1S/C10H19N3O2.2ClH/c14-9-13-4-2-12(3-5-13)8-10-7-11-1-6-15-10;;/h9-11H,1-8H2;2*1H
